US07601736B2
8-hydroxy-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on HCl salt (300 mg, 1.080 mmol), iodo methane (3.68 g, 25.92 mmol), silver oxide (936 mg, 4.04 mmol) and calcium sulfate (239.7 mg, 1.76 mmol) were dissolved in 20 mL of anhydrous and then stirred overnight at room temperature. The mixture was evaporated under reduced pressure. A silica gel column chromatography (30% EtOAc/Hexane) was performed on the resulting residue and 193 mg (70%) of 8-methoxy-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in white solid.

reactant | 8-hydroxy-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on HCl salt | 1.080 mmol, 300 mg | Cl.OC=1N=C(C=C2C1C(OCC2)=O)C2=CC=CC=C2
reactant | iodo methane | 25.92 mmol, 3.68 g | IC | CH3I
reactant | calcium sulfate | 1.76 mmol, 239.7 mg | S(=O)(=O)([O-])[O-].[Ca+2]
catalyst | silver oxide | 4.04 mmol, 936 mg | [Ag]=O
product | 8-methoxy-6-phenyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 193 mg, 70% | COC=1N=C(C=C2C1C(OCC2)=O)C2=CC=CC=C2 | C15H13NO3
